US07211601B2
(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-(5-ethyl-1,3,4-thiadiazol-2-yl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]carbonyl chloride, and 5-ethyl-1,3,4-thiadiazol-2-amine the title compound was obtained in 89% purity by LC/MS. MS(ESI+): m/z=450.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]carbonyl chloride | C=1(C(=CC=CC1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | 5-ethyl-1,3,4-thiadiazol-2-amine | C(C)C1=NN=C(S1)N | C4H7N3S
product | (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-(5-ethyl-1,3,4-thiadiazol-2-yl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)NC=1SC(=NN1)CC)C1=CC=CC=C1 | C23H23N5O3S
